US04853469
Preparation of ethyl 4-hydroxy-6,7,8-trifluoro-2-(p-methoxybenzylthio)quinoline-3-carboxylate [compound (XIII) in which R4 is ethyl]
A solution of diethyl [(2,3,4-trifluoroanilino)(p-methoxybenzylthio)methylene]malonate (80.9 g) in diphenyl ether (60 ml) heated at 110° C. was added dropwise to diphenyl ether (210 ml) kept at 250° to 260° C. with stirring under nitrogen stream over a period of 15 minutes. After the reaction mixture was further stirred at the same temperature for 5 minutes, the mixture was cooled to room temperature and added to hexane (3000 ml). The resulting precipitate was filtered to give the title compound (59.9 g), which was recrystallized from ethyl acetate to give yellow crystals, m.p. 174°-176° C.

reactant | diethyl [(2,3,4-trifluoroanilino)(p-methoxybenzylthio)methylene]malonate | 80.9 g | FC1=C(NC(SCC2=CC=C(C=C2)OC)=C(C(=O)OCC)C(=O)OCC)C=CC(=C1F)F | C22H22F3NO5S
reactant | hexane | 3000 ml | CCCCCC | C6H14
solvent | diphenyl ether | 60 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | diphenyl ether | 210 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | ethyl 4-hydroxy-6,7,8-trifluoro-2-(p-methoxybenzylthio)quinoline-3-carboxylate | 59.9 g | OC1=C(C(=NC2=C(C(=C(C=C12)F)F)F)SCC1=CC=C(C=C1)OC)C(=O)OCC | C20H16F3NO4S
